US08357711B2
(3S*,4R*)-3-Azido-4-(4-fluorophenyl)tetrahydrofuran
Sodium azide (30 g, 0.46 mol, 3.0 eq) was added under vigorous stirring to a mixture of compound (3S*,4S*)-4-(4-fluorophenyl)tetrahydrofuran-3-yl methanesulfonate (Preparation 60, 40 g, 0.15 mol, 1 eq) in dimethylsulfoxide (200 mL). The mixture was stirred on a water bath at 80 C for 4 h, cooled, diluted with water (700 mL), and extracted with ether (3×300 mL). The combined organic layer was washed with water (300 mL) and the saturated sodium chloride solution, dried over sodium sulfate, and rotary evaporated in the absence of vacuum at a bath temperature of 70° C. The residue was evaporated in water-aspirator vacuum at a bath temperature of 70° C. to give title compound (29.6 g, 0.14 mol, 94%).

reactant | Sodium azide | 0.46 mol, 30 g, 3.0 eq | [N-]=[N+]=[N-].[Na+]
reactant | (3S*,4S*)-4-(4-fluorophenyl)tetrahydrofuran-3-yl methanesulfonate | 0.15 mol, 40 g, 1 eq | CS(=O)(=O)O[C@@H]1COC[C@@H]1C1=CC=C(C=C1)F | C11H13FO4S
solvent | dimethylsulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | water | 700 mL | O | H2O
product | (3S*,4R*)-3-Azido-4-(4-fluorophenyl)tetrahydrofuran | 0.14 mol, 29.6 g, 94% | N(=[N+]=[N-])[C@@H]1COC[C@@H]1C1=CC=C(C=C1)F | C10H10FN3O
